US06391887B1
7-Methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
7-methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one (400 mg, 1.86 mmol) and magnesium (452 mg, 18.6 mmol) are converted into 180 mg (45%) of product analogously to Example 7.

reactant | 7-methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 1.86 mmol, 400 mg | COC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C13H13NO2
reactant | magnesium | 18.6 mmol, 452 mg | [Mg] | Mg
product | 7-Methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | COC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C13H15NO2
